US09145415B2
To a solution of 2-cyano-4-methoxy-2-(2-methoxyethyl)butyric acid (G19, 957 mg) in tetrahydrofuran (8 mL) and tert-butanol (32 mL), diphenylphosphonyl azide (1.63 mL) and triethylamine (1.00 mL) were added at room temperature, and the mixture was stirred at 80° C. for 2 hours. The solvent was evaporated under reduced pressure, and to the obtained residue, ethyl acetate and saturated aqueous sodium chloride were added. The organic layer was separated, washed successively with saturated aqueous sodium hydrogencarbonate and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 100 to 0% hexane in ethyl acetate) to obtain tert-butyl (3-cyano-1,5-dimethoxypentan-3-yl)carbamate (G20, 519 mg).

reactant | 2-cyano-4-methoxy-2-(2-methoxyethyl)butyric acid | C(#N)C(C(=O)O)(CCOC)CCOC | C9H15NO4
reactant | diphenylphosphonyl azide | 1.63 mL | C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1.00 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butanol | 32 mL | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | tert-butyl (3-cyano-1,5-dimethoxypentan-3-yl)carbamate | 519 mg | C(#N)C(CCOC)(CCOC)NC(OC(C)(C)C)=O | C13H24N2O4
